US04394070
Helichromic (+)-1-[p-(4-methylhexyl)anilino]-4-hydroxyanthraquinone
1-Chloro-4-hydroxyanthraquinone (27.8 gm) is dissolved in 200 ml nitrobenzene in a boiling flask fitted with a stirrer and reflux condensor. After heating to 80° C., 18.1 gm (+)-4-methylhexyl)aniline, prepared according to Example 17, is added followed by the addition of 0.1 gm copper acetate and 20 gm sodium acetate. The mixture is stirred and heated to 150° C. for 4 hours. The mixture is then cooled to 80° C. and 500 ml ethanol is added. When cooled to room temperature the crude dye is separated by filtration, water and alcohol washed, and dried overnight. Chromatography on alumina using toluene as eluent affords the pure helichromic compound. The structure of the compound is confirmed by NMR.

reactant | 1-Chloro-4-hydroxyanthraquinone | 27.8 gm | ClC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O | C14H7ClO3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | sodium acetate | 20 gm | C(C)(=O)[O-].[Na+]
reactant | ethanol | 500 ml | C(C)O | C2H6O
reactant | nitrobenzene | 200 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper acetate | 0.1 gm | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (+)-1-[p-(4-methylhexyl)anilino]-4-hydroxyanthraquinone | CC(CCCC1=CC=C(NC2=CC=C(C=3C(C4=CC=CC=C4C(C23)=O)=O)O)C=C1)CC | C27H27NO3
